US04008223
There were gradually added to a cooled and stirred solution of 190 grams of 2,6-dichloro-3-nitropyridine and 117 grams of benzyl cyanide in 2 liters of dioxane under a nitrogen atmosphere 64 grams of sodium hydride (80% in white oil). The reaction mixture immediately turned a deep dark blue color, gradually a finely divided precipitate began to separate out, the temperature rose (with cooling with ice water) to 30° C. After 3 hours the mixture was treated with about 20 ml of ethyl alcohol, stirred for another 20 minutes, then filtered with suction. The deep blue sodium salt was dissolved in 1 liter of water, treated with dilute acetic acid until the color changed. The 2-(α-cyanobenzyl)-3-nitro-6-chloropyridine formed crystallized out in pure form. M.P. 165° C; Yield 146 grams.

reactant | 2,6-dichloro-3-nitropyridine | 190 grams | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | benzyl cyanide | 117 grams | C(C1=CC=CC=C1)C#N | C8H7N
reactant | sodium hydride | 64 grams | [H-].[Na+]
solvent | dioxane | 2 liters | O1CCOCC1 | C4H8O2
product | 2-(α-cyanobenzyl)-3-nitro-6-chloropyridine | C(#N)C(C1=CC=CC=C1)C1=NC(=CC=C1[N+](=O)[O-])Cl | C13H8ClN3O2
